US07576091B2
N-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-benzamide
To 2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine (0.2 g, 0.92 mmol) in pyridine (7 mL) was added benzoyl chloride (117 μL, 142 mg, 1 mmol). The mixture was stirred at room temperature for 2 h. Water (100 mL) was added and the product was extracted into EtOAc (3×50 mL). The organic extracts were combined, dried, filtered, and concentrated under vacuum. Flash column chromatography (50% EtOAc:hexane) followed by crystallisation from EtOH afforded the title product as yellow crystals (173 mg, 59%): mp 229-231° C. Anal. RP-HPLC: tR 13.5 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 8.59 (s, 1H, NH), 8.44 (s, 1H, Py-H), 7.95 (m, 2H, Ph-H), 7.54 (m, 3H, Ph-H), 3.09 (m, 4H, CH2—CH2), 2.77 (s, 3H, CH3). 13C-NMR (CDCl3): δ 170.70, 165.50, 160.05, 158.04, 157.02, 155.77, 134.89, 132.66, 129.15, 128.92, 127.89, 121.44, 25.39, 24.50, 20.31. MS (ESI+): m/z 323.05 (M+H)+. Anal. (C17H14N4OS)C, H, N.

reactant | 2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine | 0.92 mmol, 0.2 g | CC=1SC2=C(CCC=3C=NC(=NC23)N)N1 | C10H10N4S
reactant | benzoyl chloride | 1 mmol, 117 μL, 142 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Water | 100 mL | O | H2O
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-benzamide | 173 mg, 59% | CC=1SC2=C(CCC=3C=NC(=NC23)NC(C2=CC=CC=C2)=O)N1 | C17H14N4OS
